US04921852
To a solution of (2S,4R)-2-bromoacetyl-4-methanesulfonyloxy- 1-(4-nitrobenzyloxycarbonyl)pyrrolidine (840 mg) in a mixture of methanol (30 ml) and dichloromethane (20 ml) was added 2-(4-nitrobenzyloxycarbonylamino)thioacetamide (700 mg) at room temperature. After stirring at 60° C. for 2 hours, the mixture was poured into ethyl acetate and washed with saturated aqueous sodium bicarbonate and bring successively. The dried organic layer was evaporated and the resulting oil was subjected to column chromatography on silica gel (30 g) eluting with ethyl acetate to give (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-[2-{N-(4-nitrobenzyloxycarbonyl)aminomethyl}thiazol-4-yl]pyrrolidine (540 mg).

reactant | (2S,4R)-2-bromoacetyl-4-methanesulfonyloxy- 1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 840 mg | BrCC(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H17BrN2O8S
reactant | 2-(4-nitrobenzyloxycarbonylamino)thioacetamide | 700 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NCC(=S)N)C=C1 | C10H11N3O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 ml | CO | CH4O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-[2-{N-(4-nitrobenzyloxycarbonyl)aminomethyl}thiazol-4-yl]pyrrolidine | 540 mg | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1N=C(SC1)CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H25N5O11S2
